US05705188
In dioxane was dissolved 3.45 g (11 mmol) of 1,3-O-di-(t-butyldimethylsilyl)glycerol followed by addition of 3.03 g (12 mmol) of pyridinium p-toluenesulfonate. To this suspension was added 16.5 ml (22 mmol) of dihydrofuran gradually under ice-cooling and the mixture was stirred for 1 hour. After return to ambient temperature, the mixture was allowed to react overnight. After completion of the reaction, the solvent was distilled off and the residue was treated with methylene chloride and saturated aqueous sodium hydrogen carbonate solution. The methylene chloride layer was washed with water, dried, and concentrated to provide 4.25 g (100%) of 1,3-O-di-(t-butyldimethylsilyl)-2-O-tetrahydrofuranylglycerol.

reactant | 1,3-O-di-(t-butyldimethylsilyl)glycerol | 11 mmol, 3.45 g | [Si](C)(C)(C(C)(C)C)OCC(O)CO[Si](C)(C)C(C)(C)C | C15H36O3Si2
reactant | pyridinium p-toluenesulfonate | 12 mmol, 3.03 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydrofuran | 22 mmol, 16.5 ml | O1CCC=C1 | C4H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,3-O-di-(t-butyldimethylsilyl)-2-O-tetrahydrofuranylglycerol | 4.25 g, 100% | [Si](C)(C)(C(C)(C)C)OCC(OC1OCCC1)CO[Si](C)(C)C(C)(C)C | C19H42O4Si2
